US04150224
(1-Pyrryl)acetic Acid
To a 1 liter flask fitted with a condenser, a magnetic stirrer and a nitrogen inlet tube is added acetic acid (glacial, 300 ml) and sodium acetate (32.8g; 0.4 mole). The system is purged with nitrogen and a positive nitrogen pressure is maintained. Then glycine (15.0g; 0.2 mole) is added and the solution is heated to reflux. To the refluxing, clear solution is added 2,5-dimethoxytetrahydrofuran (29 ml, 0.2 mole) over a period of 2 - 3 minutes; refluxing is continued an additional 2 minutes. The reaction mixture is cooled in an ice bath and most of the acetic acid is removed under vacuum. The residue is taken up in water and extracted with four portions of ether. The ether extracts are washed with water, dried over anhydrous magnesium sulfate, filtered and the ether is evaporated to yield a slurry. The slurry is taken up into toluene, filtered through celite and crystallized by cooling to give 8.41g. (33.6%) of the title compound. M.P. 88°-90° C.

reactant | acetic acid | 300 ml | C(C)(=O)O | C2H4O2
reactant | sodium acetate | 0.4 mole, 32.8g | C(C)(=O)[O-].[Na+]
reactant | glycine | 0.2 mole, 15.0g | NCC(=O)O | C2H5NO2
reactant | 2,5-dimethoxytetrahydrofuran | 0.2 mole, 29 ml | COC1OC(CC1)OC | C6H12O3
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | (1-Pyrryl)acetic Acid | 33.6% | N1(C=CC=C1)CC(=O)O | C6H7NO2
